US05877191
Triethylamine (0.050 mL, 0.36 mmol) was added in portions to a mixture of 2-bromo-1-methoxy-4-(2-methoxyvinyl)benzene (500 mg, 2.06 mmol, 1:1 ratio of E- and Z-isomers), phenylisocyanate (0.489 mL, 4.5 mmol), and nitroethane (0.180 mL, 2.5 mmol) in dry toluene (2.0 mL) at room temperature. After stirring at room temperature for 5 h followed by 1 h at 100° C. for 1 h, the mixture was allowed to stand overnight at room temperature. Water (6 mL) was then added and stirring was continued at room temperature for 4 h. The mixture was filtered, the layers of the filtrate were separated, and the aqueous layer was extracted with 2×30 mL of toluene. The combined organic layers were dried over sodium sulfate and evaporated. Flash column chromatography on 50 g of silica gel eluting with 2 L of 10% of ethyl acetate/hexane yielded 4-(3-bromo-4-methoxyphenyl)-5-methoxy-3-methyl-4,5-dihydroisoxazole as 0.28 g of yellow oil containing some remaining impurity. 1H NMR (400 MHz, CDCl3): δ 7.33 (d, 1H, J=2 Hz), 7.03(dd, 1H, J=9, 2 Hz), 6.87 (d, 1H, J=9 Hz), 5.15 (d, 1H, J=1 Hz), 3.89 (s, 3H), 3.88 (s, 1H), 3.47 (s, 3H), 1.83 (s, 3H). Mass spectrum (NH3CI): m/e=300 (M+1).

reactant | Triethylamine | 0.36 mmol, 0.050 mL | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-1-methoxy-4-(2-methoxyvinyl)benzene | 2.06 mmol, 500 mg | BrC1=C(C=CC(=C1)C=COC)OC | C10H11BrO2
reactant | phenylisocyanate | 4.5 mmol, 0.489 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | nitroethane | 2.5 mmol, 0.180 mL | [N+](=O)([O-])CC | C2H5NO2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 6 mL | O | H2O
product | 4-(3-bromo-4-methoxyphenyl)-5-methoxy-3-methyl-4,5-dihydroisoxazole | BrC=1C=C(C=CC1OC)C1C(=NOC1OC)C | C12H14BrNO3
